US04000153
In the manner given in Example 3, 7-chloro-1-methyl-5-(o-fluorophenyl)-s-triazolo[4,3-a]quinoline is oxidized at low temperature with sodium periodate and ruthenium dioxide to give 2'-fluoro-5-chloro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone.

reactant | 7-chloro-1-methyl-5-(o-fluorophenyl)-s-triazolo[4,3-a]quinoline | ClC=1C=C2C(=CC=3N(C2=CC1)C(=NN3)C)C3=C(C=CC=C3)F | C17H11ClFN3
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium dioxide | [Ru](=O)=O
product | 2'-fluoro-5-chloro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone | FC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1)C)=O | C16H11ClFN3O
